US08258130B2
A solution of 4-fluoro-2-iodoaniline (2 g, 8.4 mmol) in THF (15 mL) and cyclopropylacetylene (1.4 mL, 16.9 mmol) is treated with PdCl2(PPh3)4 (177 mg, 0.25 mmol), CuI (48 mg, 0.25 mmol) and triethylamine (3.5 mL, 25.2 mmol) and stirred at rt for 2 h. The mixture is filtered through Celite and concentrated. The residue is purified by silica gel chromatography eluting with 0%-35% EtOAc in heptane to afford 2-cyclopropylethynyl-4-fluoro-phenylamine (1.1 g, 74%). MS: 176 (M+H); 1H NMR (300 MHz, CDCl3): δ 6.93 (m, 1H), 6.81 (m, 1H), 6.59 (m, 1H), 4.00 (s, NH2, 2H), 1.49 (m, 1H), 0.82 (m, 4H).

reactant | 4-fluoro-2-iodoaniline | 8.4 mmol, 2 g | FC1=CC(=C(N)C=C1)I | C6H5FIN
reactant | cyclopropylacetylene | 16.9 mmol, 1.4 mL | C1(CC1)C#C | C5H6
reactant | triethylamine | 25.2 mmol, 3.5 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 15 mL | C1CCOC1 | C4H8O
catalyst | CuI | 0.25 mmol, 48 mg | [Cu]I
product | 2-cyclopropylethynyl-4-fluoro-phenylamine | 1.1 g, 74% | C1(CC1)C#CNC1=CC=C(C=C1)F | C11H10FN
